US06410562B1
A mixture of 1.6 g (5.7 mmol) of ethyl (2-phenylindol-3-yl)acetate and 15 ml of ethylenediamine was heated at reflux overnight. The excess diamine and the formed water were removed by distillation at 90° C. in vacuo, and the crude product was chromatographed with dichloromethane/ethanol 1:1 to afford 1.35 g (80%) of N-(2-aminoethyl)-(2-phenylindol-3-yl)acetamide as a yellow crystalline solid. The amide and 20 ml of HMDS were heated at reflux under argon overnight. The crystals formed upon cooling were collected by filtration, dissolved in ethanol, and traces of HMS were stripped off along with ethanol. The title imidazoline was purified by chromatography with dichloromethane/ethanol 7:3, dissolved in ethanol and treated with ethanolic HCl to form a hydrochloride salt which was recrystallized from EtOH/EtOAc to yield 0.45 g (31%) of colorless crystals along with 0.32 g of the product salt from the mother liquid (54% overall yield).

reactant | ethyl (2-phenylindol-3-yl)acetate | 5.7 mmol, 1.6 g | C1(=CC=CC=C1)C=1NC2=CC=CC=C2C1CC(=O)OCC | C18H17NO2
reactant | ethylenediamine | 15 ml | C(CN)N | C2H8N2
product | N-(2-aminoethyl)-(2-phenylindol-3-yl)acetamide | 1.35 g, 80% | NCCNC(CC1=C(NC2=CC=CC=C12)C1=CC=CC=C1)=O | C18H19N3O
